US07439370B2
d) (R)-2-(-3-amino-piperidin-1-yl)-3-(but-2-ynyl)-5-(4-methyl-quinazolin-2-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one (V)
A solution of 17.2 g (31.7 mmol) tert-butyl (R)-{1-[1-(but-2-ynyl)-6-(4-methyl-quinazolin-2-ylmethyl)-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]-piperidin-3-yl}-carbamate in 400 ml dichloromethane was combined with 85 ml trifluoroacetic acid and stirred for three hours at ambient temperature. The mixture was evaporated to dryness at 30° C., the residue was dissolved in dichloromethane and the solution was made basic with ice-cooled saturated sodium carbonate solution. The organic phase was separated off and the aqueous phase was extracted twice more with dichloromethane. The combined organic phases were dried over sodium sulphate and the solvent was removed. The residue was purified by chromatography on silica gel (dichloromethane/methanol/ammonium hydroxide 95:5:0.1).

reactant | tert-butyl (R)-{1-[1-(but-2-ynyl)-6-(4-methyl-quinazolin-2-ylmethyl)-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]-piperidin-3-yl}-carbamate | 31.7 mmol, 17.2 g | C(C#CC)N1C(=NC2=C1C(N(N=C2)CC2=NC1=CC=CC=C1C(=N2)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C29H34N8O3
reactant | trifluoroacetic acid | 85 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | (R)-2-(-3-amino-piperidin-1-yl)-3-(but-2-ynyl)-5-(4-methyl-quinazolin-2-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | N[C@H]1CN(CCC1)C=1N(C2=C(C=NN(C2=O)CC2=NC3=CC=CC=C3C(=N2)C)N1)CC#CC | C24H26N8O
